US07687540B2
To a solution of ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid (0.5 g, 1.49 mmol) in 30 mL toluene was added 3-bromo-3H-isobenzofuran-1-one (952 mg, 4.47 mmol) and silver carbonate (1.23 g, 4.47 mmol). The reaction mixture was heated to 120° C. for 2 h. After filtering hot and concentrating in vacuo the crude product was purified by gradient flash chromatography (methanol/methylene chloride) on a 35 g RediSep disposable column to give ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid 3-oxo-1,3-dihydro-isobenzofuran-1-yl ester (150 mg, 0.32 mmol). 1H NMR (CDCl3, 300 MHz): δ 7.92 (m, 1H), 7.73 (m, 2H), 7.12 (m, 1H), 5.1 (m, 1H), 4.40 (m, 1H), 4.2 (m, 1H), 3.4-3.22 (m, 1H), 3.20-3.04 (m, 1H), 2.01-1.58 (m, 10H), 1.48 (s, 9H), 1.40-0.95 (m, 6H). LC/MS m/z: [M+H]+=468.

reactant | ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid | 1.49 mmol, 0.5 g | C(C)(C)(C)OC(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O | C15H30NO5P
reactant | 3-bromo-3H-isobenzofuran-1-one | 4.47 mmol, 952 mg | BrC1OC(C2=CC=CC=C12)=O | C8H5BrO2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver carbonate | 4.47 mmol, 1.23 g | C([O-])([O-])=O.[Ag+2]
product | ((R)-3-tert-butoxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid 3-oxo-1,3-dihydro-isobenzofuran-1-yl ester | 0.32 mmol, 150 mg | O=C1OC(C2=CC=CC=C12)OP(=O)(CC1CCCCC1)C[C@@H](CNC(=O)OC(C)(C)C)O | C23H34NO7P
